US07153855B2
In a similar manner as described in Example 1 from (2E)-1-[2-(3-bromophenyl)-7-(cyclopentylamino)pyrazolo[1,5-a]pyridin-3-yl]-3-(dimethylamino)-2-propen-1-one (500 mg, 1.1 mmol) and guanidine sulfate (358 mg, 1.65 mmol), N-[3-(2-amino-4-pyrimidinyl)-2-(3-bromophenyl)pyrazolo[1,5-a]pyridin-7-yl]-N-cyclopentylamine (380 mg, 77%) was obtained as a yellow solid. 1H NMR (CDCl3): δ 8.01 (d, 1H), 7.84 (s, 1H), 7.64 (d, 1H), 7.54–7.49 (m, 2H), 7.30–7.22 (m, 2H), 6.36 (d, 1H), 6.01 (d, 1H), 5.97 (d, 1H), 4.95 (broad s, 2H), 3.97 (m, 1H), 2.12 (m, 2H), 1.79–1.57 (m, 6H); MS m/z 448 (M+1); Anal. Calcd. for C22H21N6Br: C, 58.80; H, 4.71; N,18.70. Found: C, 58.61; H, 4.75; N, 18.58.

reactant | (2E)-1-[2-(3-bromophenyl)-7-(cyclopentylamino)pyrazolo[1,5-a]pyridin-3-yl]-3-(dimethylamino)-2-propen-1-one | 1.1 mmol, 500 mg | BrC=1C=C(C=CC1)C1=NN2C(C=CC=C2NC2CCCC2)=C1C(\C=C\N(C)C)=O | C23H25BrN4O
reactant | guanidine sulfate | 1.65 mmol, 358 mg | S(=O)(=O)(O)O.NC(=N)N
product | N-[3-(2-amino-4-pyrimidinyl)-2-(3-bromophenyl)pyrazolo[1,5-a]pyridin-7-yl]-N-cyclopentylamine | 380 mg, 77% | NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2NC2CCCC2)C2=CC(=CC=C2)Br | C22H21BrN6
